US04698337
2-(2-Formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetic acid (syn isomer, 2 g.) and 7-amino-3-methyl-3-cephem-4-carboxylic acid (1.6 g.) were treated in a similar manner to that of Example 21-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-methyl-3-cephem-4-carboxylic acid (syn isomer, 2.1 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetic acid | 2 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCNC(=O)OC(C)(C)C | C13H18N4O6S
reactant | 7-amino-3-methyl-3-cephem-4-carboxylic acid | 1.6 g | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetamido]-3-methyl-3-cephem-4-carboxylic acid | 2.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C21H26N6O8S2
